US05665719
To a 0° C. stirred solution of 2,4-dihydroxybenzoic acid methyl ester (5 g, 30 mmol) in dry DMF (100 mL) was added sodium hydride (1.2 g of a 60% suspension in mineral oil, 30 mmol). After 1 h, the solution was warmed to ambient temperature and stirred for 1 h. To the solution was added N-t-butyloxycarbonyl-3-bromopropylamine (10.6 g, 45 mmol). The reaction was stirred at ambient temperature for 24 and the solvent was removed under reduced pressure. The residue was dissolved in EtOAc (250 mL) and washed with water (2×200 mL) and brine (100 mL). The EtOAc layer was dried (MgSO4), filtered, and the solvent was removed under reduced pressure. The residue was purified by pressurized silica gel column chromatography using 1:4 EtOAc:hexanes as eluant. The product-containing fractions were pooled and the solvent was removed under reduced pressure. The resulting oil crystallized from ether to give 4-(3-(t-butyloxycarbonylamino)propyloxy)-2-hydroxybenzoic acid methyl ester (51% yield).

reactant | 2,4-dihydroxybenzoic acid methyl ester | 30 mmol, 5 g | COC(C1=C(C=C(C=C1)O)O)=O | C8H8O4
reactant | sodium hydride | [H-].[Na+]
reactant | N-t-butyloxycarbonyl-3-bromopropylamine | 45 mmol, 10.6 g | C(C)(C)(C)OC(=O)NCCCBr | C8H16BrNO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(3-(t-butyloxycarbonylamino)propyloxy)-2-hydroxybenzoic acid methyl ester | 51% yield | COC(C1=C(C=C(C=C1)OCCCNC(=O)OC(C)(C)C)O)=O | C16H23NO6
